US08455499B2
Step 1: 6-(4-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-hex-5-ynoic acid
To a solution of [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester (0.200 g, 0.46 mmol) and 5-hexynoic acid (0.06 mL, 0.55 mmol) in DME (5 mL) was added copper iodide (0.017 g, 0.09 mmol), followed by tetrakis(triphenylphosphine)palladium(0) (0.032 g, 0.05 mmol), and the mixture was purged with N2 for 5 minutes. Triethylamine (0.26 mL, 1.83 mmol) was added, and the reaction was purged with N2 for another 10 minutes and then stirred at 80° C. for 2 hours. The mixture was partitioned between EtOAc and H2O, and the aqueous layer was separated and extracted with EtOAc. The combined organic layers were dried over MgSO4, filtered, and concentrated, and the residue was purified by preparative HPLC to give the title compound.

reactant | [5-(4-bromo-phenyl)-3-methyl-isoxazol-4-yl]-carbamic acid 1-(2-chloro-phenyl)-ethyl ester | 0.46 mmol, 0.200 g | ClC1=C(C=CC=C1)C(C)OC(NC=1C(=NOC1C1=CC=C(C=C1)Br)C)=O | C19H16BrClN2O3
reactant | 5-hexynoic acid | 0.55 mmol, 0.06 mL | C(CCCC#C)(=O)O | C6H8O2
reactant | Triethylamine | 1.83 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
solvent | DME | 5 mL | COCCOC | C4H10O2
catalyst | copper iodide | 0.09 mmol, 0.017 g | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.05 mmol, 0.032 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(4-{4-[1-(2-Chloro-phenyl)-ethoxycarbonylamino]-3-methyl-isoxazol-5-yl}-phenyl)-hex-5-ynoic acid | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1C1=CC=C(C=C1)C#CCCCC(=O)O)C | C25H23ClN2O5
